US07098226B2
Triethylamine (1.57 ml, 11.3 mmol) was added to a solution of 3-hydroxy-2,2-dimethyl-3-(4-pyridyl)propionitrile (1.00 g, 5.67 mmol) in dichloromethane (20 ml) at room temperature. Further, p-toluenesulfonyl chloride (1.30 g, 6.80 mmol) was added to the mixture, and the whole was warmed at 50° C. with stirring for three days. The reaction mixture was allowed to stand and then concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography to give 699 mg (37.4%) of 2,2-dimethyl-3-(4-pyridyl)-3-(p-tolylsulfonyloxy)propionitrile as a pale yellow solid.

reactant | Triethylamine | 11.3 mmol, 1.57 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-2,2-dimethyl-3-(4-pyridyl)propionitrile | 5.67 mmol, 1.00 g | OC(C(C#N)(C)C)C1=CC=NC=C1 | C10H12N2O
reactant | p-toluenesulfonyl chloride | 6.80 mmol, 1.30 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-3-(4-pyridyl)-3-(p-tolylsulfonyloxy)propionitrile | 699 mg, 37.4% | CC(C#N)(C(OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=NC=C1)C | C17H18N2O3S
